US07700625B2
75A. 5-(4-Methyl-piperazin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
5-Bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (2.97 g, 10 mmol) was azeotropically dried by evaporation from toluene. Tris(dibenzylideneacetone)dipalladium (0) (228 mg, 0.25 mmol), 2-(di-tert-butylphosphino)biphenyl (149 mg, 0.50 mmol) and sodium tert-butoxide (1.34 g, 13.9 mmol) were added and the flask was purged with nitrogen. Toluene (25 mL) then N-methylpiperazine (1.33 mL, 12 mmol) were added and the mixture was heated to 80° C. for 2 hours. After allowing to cool to r.t. the mixture was diluted with ether, filtered through Celite and concentrated to give a residue that was purified by flash chromatography on silica (2M methanolic ammonia/dichloromethane, 1% to 3% gradient). This afforded the title compound as a brown solid (1.45 g, 46%). 1H NMR (MeOH-d4) 7.15 (1H, m), 6.94-6.88 (2H, m), 4.60-4.54 (4H, m), 3.20-3.17 (4H, m), 2.63-2.60 (4H, m), 2.34 (3H, s), 1.52 (9H, s). MS: [M+H]+ 318.

reactant | 5-Bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 10 mmol, 2.97 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)Br | C13H16BrNO2
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.50 mmol, 149 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 13.9 mmol, 1.34 g | CC(C)([O-])C.[Na+]
reactant | N-methylpiperazine | 12 mmol, 1.33 mL | CN1CCNCC1 | C5H12N2
solvent | ether | CCOCC | C4H10O
catalyst | Tris(dibenzylideneacetone)dipalladium | 0.25 mmol, 228 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Methyl-piperazin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 1.45 g, 46% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1CCN(CC1)C | C18H27N3O2
